US05958910
A mixture of 0.5 g of 4-(4-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.35 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the mixture was extracted three times with 100 ml of ethyl acetate each time. The organic phases were combined, dried with magnesium sulphate and the solvent was removed on a rotary evaporator. The residue was chromatographed on 60 g of Kieselgel 60 with diethyl ether/ethyl acetate (1:1) as the eluent. The product-containing fractions were concentrated and the residue was digested with a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. The product separated upon neutralization of the filtrate with concentrated hydrochloric acid. Recrystallization from 50 ml of 60% ethanol yielded 0.10 g of 4-methyl-N-[4-(4-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide as yellowish crystals.

reactant | 4-(4-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-methyl-N-[4-(4-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 0.10 g | CC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H13N3O4S2
